US07868014B2
Add sodium triacetoxyborohydride (156 mg, 0.73 mmol) to a mixture of 3-fluoro-4-oxopyrrolidine-1-carboxylic acid tert-butyl ester (100 mg, 0.5 mmol) and 2,4-dichlorobenzylamine (65 μL, 0.5 mmol) in 1,2-dichloroethane (1.5 mL), followed by 2 drops of glacial acetic acid and stir overnight at room temperature. Pour the crude mixture into 2 N sodium hydroxide and extract with ethyl acetate, wash with water, dry (magnesium sulfate), concentrate and chromatograph on silica gel to give 3-(2,4-dichlorobenzylamino)-4-fluoropyrrolidine-1-carboxylic acid tert-butyl ester (40 mg, 20%). 1H NMR (300 MHz, CDCl3) δ 7.36-7.44 (2H, m), 7.20-7.28 (1H, m), 5.03 (1H, d, J=54.07 Hz), 3.21-3.95 (6H, m), 2.99-3.15 (1H, m), 1.45 (9H, s), MS (ES): m/z=363 [M+].

reactant | sodium triacetoxyborohydride | 0.73 mmol, 156 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 3-fluoro-4-oxopyrrolidine-1-carboxylic acid tert-butyl ester | 0.5 mmol, 100 mg | C(C)(C)(C)OC(=O)N1CC(C(C1)=O)F | C9H14FNO3
reactant | 2,4-dichlorobenzylamine | 0.5 mmol, 65 μL | ClC1=C(CN)C=CC(=C1)Cl | C7H7Cl2N
reactant | sodium hydroxide | 2 N | [OH-].[Na+]
solvent | 1,2-dichloroethane | 1.5 mL | ClCCCl | C2H4Cl2
catalyst | acetic acid | 2 drops | C(C)(=O)O | C2H4O2
product | 3-(2,4-dichlorobenzylamino)-4-fluoropyrrolidine-1-carboxylic acid tert-butyl ester | 40 mg, 20% | C(C)(C)(C)OC(=O)N1CC(C(C1)F)NCC1=C(C=C(C=C1)Cl)Cl | C16H21Cl2FN2O2
